US05015656
(f) Methyl 4-methoxy-5-methyl-3-thiophenecarboxylate
Methyl 4-hydroxy-5-methyl-3-thiophenecarboxylate (34 g), potassium carbonate (37 g) and dimethyl sulphate (33.67 g) were stirred in anhydrous acetone (200 ml) at room temperature for 20 days. The reaction mixture was filtered and the solvent removed.

reactant | Methyl 4-hydroxy-5-methyl-3-thiophenecarboxylate | 34 g | OC=1C(=CSC1C)C(=O)OC | C7H8O3S
reactant | potassium carbonate | 37 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 33.67 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | Methyl 4-methoxy-5-methyl-3-thiophenecarboxylate | COC=1C(=CSC1C)C(=O)OC | C8H10O3S
